US07087629B2
3-(tert-butyloxycarbonylamino)-isoxazole
To a stirred solution of 3-aminoisoxazole (5.00 g, 59.5 mmol) and 4-(dimethylamino) pyridine (500 mg) in pyridine (100 ml) was added portionwise di-tert-butyl dicarbonate (25.97 g, 119 mmol) and stirred for 18 hours. The solvent was removed by rotary evaporation giving an oil that was dissolved in methanol (100 ml) and treated with NaOH solution (2.5M, 24 ml, 60 mmol), stirred for 2 hours, acidified with citric acid solution (10% w/v, 80 ml), and added to water (500 ml), giving the title compound as a tan coloured solid after filtration and drying (8.89 g, 81%).

reactant | 3-aminoisoxazole | 59.5 mmol, 5.00 g | NC1=NOC=C1 | C3H4N2O
reactant | di-tert-butyl dicarbonate | 119 mmol, 25.97 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | NaOH | 60 mmol, 2.5M, 24 ml | [OH-].[Na+]
reactant | citric acid | 80 ml | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
catalyst | 4-(dimethylamino) pyridine | 500 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
solvent | methanol | 100 ml | CO | CH4O
solvent | water | 500 ml | O | H2O
product | 3-(tert-butyloxycarbonylamino)-isoxazole | C(C)(C)(C)OC(=O)NC1=NOC=C1 | C8H12N2O3
